US04451463
To a mixture of 4-benzyloxybutanamidine hydrochloride (14.6 g.) and triethylamine (33 g.) in EtOH (80 ml.) was added 2-chloroacrylonitrile (11.3 g.) and the solution was heated under reflux for 2 hours and then evaporated to dryness. The residue was partitioned between 10% aqueous HOAc (100 ml.) and EtOAc (200 ml.) and the EtOAc was reextracted with 10% v/v aqueous HOAc (2×100 ml.). The combined aqueous layers were basified with concentrated aqueous NaOH and extracted with EtOAc (3×75 ml.) and the EtOAc solution was washed with brine and dried to give 4-amino-2-(3-benzyloxypropyl)pyrimidine (9.8 g.). This amino-derivative was heated under reflux with 2,2,2-trifluoroethylisothiocyanate (10 g.) in acetonitrile (20 ml.) for 23 hours and the mixture evaporated to dryness. The residue was chromatographed on silica gel using CH2Cl2 containing 1% v/v MeOH as eluant to give 2-(3-benzyloxypropyl)-4-[3-(2,2,2-trifluoroethyl)thioureido]pyrimidine (10 g.).

reactant | 4-benzyloxybutanamidine hydrochloride | 14.6 g | Cl.C(C1=CC=CC=C1)OCCCC(=N)N
reactant | triethylamine | 33 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloroacrylonitrile | 11.3 g | ClC(C#N)=C | C3H2ClN
solvent | EtOH | 80 ml | CCO | C2H6O
product | 4-amino-2-(3-benzyloxypropyl)pyrimidine | 9.8 g | NC1=NC(=NC=C1)CCCOCC1=CC=CC=C1 | C14H17N3O
